US05719152
3) 2-(3,3-Diethoxycarbonylpropyl)-4-tert-butoxycarbonylaminomethylaniline
A solution of ethyl 4-(5-tert-butoxycarbonylaminomethyl-2-nitrophenyl)-2-ethoxycarbonylbutanoate (3.2 g, 7.3 mmol) in ethyl acetate (30 mL) was hydrogenated over palladium/charcoal (500 mg) under atmospheric pressure of hydrogen at room temperature for 2.5 h. The mixture was passed through celite and the filtrate was concentrated to give 2.8 g of the title compound (94%).

reactant | ethyl 4-(5-tert-butoxycarbonylaminomethyl-2-nitrophenyl)-2-ethoxycarbonylbutanoate | 7.3 mmol, 3.2 g | C(C)(C)(C)OC(=O)NCC=1C=CC(=C(C1)CCC(C(=O)OCC)C(=O)OCC)[N+](=O)[O-] | C21H30N2O8
reactant | hydrogen | [H][H] | H2
solvent | ethyl acetate | 30 mL | C(C)(=O)OCC | C4H8O2
catalyst | palladium/charcoal | 500 mg | [Pd] | Pd
product | 2-(3,3-Diethoxycarbonylpropyl)-4-tert-butoxycarbonylaminomethylaniline | 2.8 g, 94% | C(C)OC(=O)C(CCC1=C(N)C=CC(=C1)CNC(=O)OC(C)(C)C)C(=O)OCC | C21H32N2O6
